US05852017
c) Preparation of 1-cyclohexyl-6-trifluoromethyl-2,3(1H,4H)-quinoxalinedione
28 g (0.11 mol) of 2-cyclohexylamino-5-trifluoromethylaniline and 322 g (2.2 mol) of diethyl oxalate were refluxed for 2 hours. The reaction mixture was then concentrated, and the crude product was recrystallized from ethanol.

reactant | 2-cyclohexylamino-5-trifluoromethylaniline | 0.11 mol, 28 g | C1(CCCCC1)NC1=C(N)C=C(C=C1)C(F)(F)F | C13H17F3N2
reactant | diethyl oxalate | 2.2 mol, 322 g | C(C(=O)OCC)(=O)OCC | C6H10O4
product | 1-cyclohexyl-6-trifluoromethyl-2,3(1H,4H)-quinoxalinedione | C1(CCCCC1)N1C(C(NC2=CC(=CC=C12)C(F)(F)F)=O)=O | C15H15F3N2O2
